scheMAGIC Simulator document 6960be9d01f411d8
* document-hash 6960be9d01f411d8
I1 out oc_ac_c1 PULSE(0 5m 1m 10u 10u 4m 10m) $ component:c1
VOCS_c1 oc_ac_c1 0 0 $ component:c1
R2 out 0 1k $ component:c2
.save all vocs_c1#branch @r2[i]
.tran 0.00002 0.02 0 0.00005
.end
